data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "Cc1c(F)ccc(Br)c1N(C)C(=O)C1=CCCC1.[Pd]", "products": "Cc1c(F)cc[c]([Pd][Br])c1N(C)C(=O)C1=CCCC1"}, {"reactants": "Cc1c(F)cc[c]([Pd][Br])c1N(C)C(=O)C1=CCCC1", "products": "Cc1c(F)ccc2c1C1(CCC[CH]1[Pd][Br])C(=O)N2C"}, {"reactants": "Cc1c(F)ccc2c1C1(CCC[CH]1[Pd][Br])C(=O)N2C", "products": "Cc1c(F)ccc2c1C1(C=CCC1)C(=O)N2C.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "cat. Rh2(OAc)4"}], "steps": [{"reactants": "CCC1(C(=O)C(=[N+]=[N-])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)CCC1C.[Rh]", "products": "CCC1(C(=O)[C](=[Rh])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)CCC1C.N#N"}, {"reactants": "CCC1(C(=O)[C](=[Rh])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)CCC1C", "products": "CCC12C(=O)[C-](C(=O)OC)[O+]=C1N(C(=O)Cc1cn(C)c3ccccc13)CCC2C.[Rh]"}, {"reactants": "CCC12C(=O)[C-](C(=O)OC)[O+]=C1N(C(=O)Cc1cn(C)c3ccccc13)CCC2C", "products": "CCC12C(=O)C3(C(=O)OC)OC14N(CCC2C)C(=O)CC41c2ccccc2N(C)C31"}]}
{"conditions": [{"role": "reagent", "text": "Δ"}], "steps": [{"reactants": "C=C(Br)CC1=C(Cl)C2C(OC)C1CC2(C(=C)O[Si](C)(C)C)C(=O)OC", "products": "C=C(Br)CC12C=C(Cl)CC1(OC)CC(C(=O)OC)=C(O[Si](C)(C)C)C2"}, {"reactants": "C=C(Br)CC12C=C(Cl)CC1(OC)CC(C(=O)OC)=C(O[Si](C)(C)C)C2", "products": "C=C(Br)CC12C=C(Cl)CC1(OC)CC(C(=O)OC)=C(O)C2"}, {"reactants": "C=C(Br)CC12C=C(Cl)CC1(OC)CC(C(=O)OC)=C(O)C2", "products": "C=C(Br)CC12C=C(Cl)CC1(OC)CC(C(=O)OC)C(=O)C2"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "COc1cc(C)cc(N(C)C(=O)C2=CCCC2)c1Br.[Pd]", "products": "COc1cc(C)cc(N(C)C(=O)C2=CCCC2)[c]1[Pd][Br]"}, {"reactants": "COc1cc(C)cc(N(C)C(=O)C2=CCCC2)[c]1[Pd][Br]", "products": "COc1cc(C)cc2c1N(C)C(=O)C21CCC[CH]1[Pd][Br]"}, {"reactants": "COc1cc(C)cc2c1N(C)C(=O)C21CCC[CH]1[Pd][Br]", "products": "COc1cc(C)cc2c1N(C)C(=O)C21C=CCC1.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "ZnCl2"}], "steps": [{"reactants": "COc1ccc(NN=CCc2ccccc2)c(F)c1.Cl[Zn]Cl", "products": "COc1ccc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])c(F)c1"}, {"reactants": "COc1ccc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])c(F)c1", "products": "COc1ccc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])c(F)c1.[H+]"}, {"reactants": "COc1ccc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])c(F)c1", "products": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2cccc(F)c2)C(=N)C=C1"}, {"reactants": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2cccc(F)c2)C(=N)C=C1", "products": "COc1cc(F)c(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1"}, {"reactants": "COc1cc(F)c(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1", "products": "COc1cc(F)c2c(c1)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2"}, {"reactants": "COc1cc(F)c2c(c1)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2.[H+]", "products": "COc1cc(F)c2c(c1)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2"}, {"reactants": "COc1cc(F)c2c(c1)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2", "products": "COc1cc(F)c2c(c1)C(c1ccccc1)C=[NH+]2.N[Zn-](Cl)Cl"}, {"reactants": "COc1cc(F)c2c(c1)C(c1ccccc1)C=[NH+]2", "products": "COc1cc(F)c2[nH]cc(-c3ccccc3)c2c1.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "Clc1ccccc1C(Cl)O[C@@H]1[C@@H](OCc2ccccc2)CN2OC3(CC3)C[C@H]12", "products": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OC(Cl)c2ccccc2Cl)CC1"}, {"reactants": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OC(Cl)c2ccccc2Cl)CC1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(Cl)c1ccccc1Cl"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(Cl)c1ccccc1Cl", "products": "O=C1CCN2C[C@H](OC(Cl)c3ccccc3Cl)[C@@H](OCc3ccccc3)[C@@H]2C1"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "CC1(C)C2CCC1(C)C(O)(c1ccccc1Br)C(=O)C2.[H+]", "products": "CC1(C)C2CCC1(C)C([OH2+])(c1ccccc1Br)C(=O)C2"}, {"reactants": "CC1(C)C2CCC1(C)C([OH2+])(c1ccccc1Br)C(=O)C2", "products": "CC12CCC(CC(=O)[C+]1c1ccccc1Br)C2(C)C.O"}, {"reactants": "CC12CCC(CC(=O)[C+]1c1ccccc1Br)C2(C)C", "products": "C[C+]1C2(c3ccccc3Br)CCC(CC2=O)C1(C)C"}, {"reactants": "C[C+]1C2(c3ccccc3Br)CCC(CC2=O)C1(C)C", "products": "CC1=C(c2ccccc2Br)CCC(C#[O+])C1(C)C"}, {"reactants": "CC1=C(c2ccccc2Br)CCC(C#[O+])C1(C)C.O", "products": "CC1=C(c2ccccc2Br)CCC(C(=O)[OH2+])C1(C)C"}, {"reactants": "CC1=C(c2ccccc2Br)CCC(C(=O)[OH2+])C1(C)C", "products": "C[C+]1C(c2ccccc2Br)CCC(C(=O)O)C1(C)C"}, {"reactants": "C[C+]1C(c2ccccc2Br)CCC(C(=O)O)C1(C)C", "products": "CC1(C)C2CCC(c3ccccc3Br)C1(C)[OH+]C2=O"}, {"reactants": "CC1(C)C2CCC(c3ccccc3Br)C1(C)[OH+]C2=O", "products": "CC1(C)C2CCC(c3ccccc3Br)C1(C)OC2=O.[H+]"}]}
